US06020329
(a) 4-Methoxybenzyl 2-diazo-3-oxo-5-[(3SR,4RS)-3-phenylacetamidoazetidin-2-on-4-yl]pentanoate
A solution of 4-methoxybenzyl 3-oxo-5-[(3SR,4RS)-3-phenylacetamidoazetidin-2-on-4-yl]pentanoate (1.38g, 3.15mmol) [prepared by the method described for 4-nitrobenzyl 3-oxo-5-[(3SR,4RS)-3-phenoxyacetamidoazetidin-2-on-4-yl]pentanoate, C. Bodurow and M. A. Carr, Tetrahedron Lett., 1989, 30, 4801] in acetonitrile (60ml) was treated with 4-toluenesulphonyl azide (870mg, 4.42mmol) and N,N-diisopropylethylamine (822μl, 4.73mmol) at 0° C. After 10 min., the ice-bath was removed and stirring was continued at room temperature for 2h. The reaction mixture was diluted with ethyl acetate and washed with brine. After drying over MgSO4, the solvent was evaporated in vacuo and the residue purified by chromatography on silica gel eluting with ethyl acetate to yield the title compound (1.27g, 87%); vmax (KBr) 2134, 1775, 1717, 1654, 1513 and 1304cm-1 ; δH (CDCl3, 250MHz) 1.59-1.70 (2H,m), 2.68-2.95 (2H,m), 3.55 and 3.65 (2H, ABq, J 15.6Hz), 3.78 (1H,m), 3.82 (3H,s), 5.19 (2H,s), 5.25 (1H, ddd, J 8.1, 4.9, 1.0Hz), 6.25 (1H, br s, exch.), 6.49 (1H, br d, J 8.1Hz, exch.), 6.90 (2H,d, J 8.7Hz) and 7.23-7.70 (7H,m). [Mass spectrum : +ve ion (3-nitrobenzyl alcohol, sodium acetate) MNa+ (487)].

reactant | 4-methoxybenzyl 3-oxo-5-[(3SR,4RS)-3-phenylacetamidoazetidin-2-on-4-yl]pentanoate | 3.15mmol, 1.38g | O=C(CC(=O)OCC1=CC=C(C=C1)OC)CCC1C(C(N1)=O)NC(CC1=CC=CC=C1)=O | C24H26N2O6
reactant | 4-nitrobenzyl 3-oxo-5-[(3SR,4RS)-3-phenoxyacetamidoazetidin-2-on-4-yl]pentanoate | O=C(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CCC1C(C(N1)=O)NC(COC1=CC=CC=C1)=O | C23H23N3O8
reactant | 4-toluenesulphonyl azide | 4.42mmol, 870mg | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
reactant | N,N-diisopropylethylamine | 4.73mmol, 822μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 60ml | C(C)#N | C2H3N
product | 4-Methoxybenzyl 2-diazo-3-oxo-5-[(3SR,4RS)-3-phenylacetamidoazetidin-2-on-4-yl]pentanoate | 1.27g, 87% | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)OC)C(CCC1C(C(N1)=O)NC(CC1=CC=CC=C1)=O)=O | C24H24N4O6
